US08686046B2
4-phenoxybenzaldehyde (24)
To a stirring solution of p-fluorobenzaldehyde (1.6 mmol, 0.2 g) in dimethylformamide (8 mL) was added phenol (3.52 mmol, 0.33 g) and cesium carbonate (3.52 mmol, 1.15 g). The reaction mixture was headed to 90° C. for 3 hours at which time the reaction mixture was cooled to room temperature and filtered through a medium fritted funnel. The reaction mixture was then diluted with 125 mL of ethyl acetate and extracted with eight 15 mL portions of water followed by one 10 mL portion of brine. The organic layer was then dried with magnesium sulfate and evaporated to dryness. The title product was purified by column chromatography and 0.237 g (1.2 mmol) was recovered. 1H NMR (300 MHz, CDCl3) δ 9.91 (s, 1H), 8.02 (s, OH), 7.92-7.79 (m, 2H), 7.49-7.37 (m, 2H), 7.23 (t, J=8.0, 2H), 7.14-7.01 (m, 4H), 6.89 (t, J=8.3, 2H). 13C NMR (75 MHz, CDCl3) δ 191.28, 163.56, 156.41, 155.26, 132.28, 131.38, 130.41, 129.79, 125.23, 120.69, 120.45, 117.79, 115.61.

reactant | p-fluorobenzaldehyde | 1.6 mmol, 0.2 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | phenol | 3.52 mmol, 0.33 g | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 3.52 mmol, 1.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 4-phenoxybenzaldehyde | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
